US09107916B2
A. 2-[3-(2-Fluorophenyl)-5-hydroxy-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 48% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and ethyl 3-(2-fluorophenyl)-3-oxopropanoate according to the procedure for the preparation of Example 3, part A. 1H NMR (300 MHz, DMSO-d6): δ 6.15-6.17 (1H, m), 7.13-7.41 (4H, m), 8.07-8.12 (1H, m), 8.34 (1H, s), 8.48-8.50 (1H, m), 11.64 (1H, s). [M+H] Calc'd for C15H9FN4O, 281. Found, 281.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | ethyl 3-(2-fluorophenyl)-3-oxopropanoate | FC1=C(C=CC=C1)C(CC(=O)OCC)=O | C11H11FO3
product | 2-[3-(2-Fluorophenyl)-5-hydroxy-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 48% yield | FC1=C(C=CC=C1)C1=NN(C(=C1)O)C1=NC=CC(=C1)C#N | C15H9FN4O
